US04444584
A mixture of ethyl 2-bromopropionate (0.5 g), 4-[N-(3-nitro-2-quinolinyl)amino]phenol (0.5 g), anhydrous potassium carbonate (0.3 g) and ethyl methyl ketone (20 ml) was refluxed for 4 hours. The solvent was removed under reduced pressure and the residue was partitioned between methylene chloride and water. The organic layer was dried and evaporated to give ethyl 2-{4-[N-(3-nitro-2-quinolinyl)amino]phenoxy}propionate as an orange oil which was purified by chromatography over silica gel. Proton magnetic resonance spectrum: (CDCl3, δ in ppm): 9.6 (1H, s, NH); 8.9 (1H, s, C4 quinoline proton); 7.8-7.6 (4H, m, quinoline protons); 6.8 (4H, s, phenyl protons); 4.6 (1H, q, CHCH3); 4.2 (2H, q, OCH2CH3); 1.6 (3H, d, CHCH3); 1.2 (3H, t, OCH2CH3).

reactant | ethyl 2-bromopropionate | 0.5 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | 4-[N-(3-nitro-2-quinolinyl)amino]phenol | 0.5 g | [N+](=O)([O-])C=1C(=NC2=CC=CC=C2C1)NC1=CC=C(C=C1)O | C15H11N3O3
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl methyl ketone | 20 ml | CC(=O)CC | C4H8O
product | ethyl 2-{4-[N-(3-nitro-2-quinolinyl)amino]phenoxy}propionate | [N+](=O)([O-])C=1C(=NC2=CC=CC=C2C1)NC1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H19N3O5
